US06028069
A guanidine solution prepared--as described in Example 3--from 547 mg of sodium, 12 ml of methanol and 2.5 g of guanidine hydrochloride is treated with 1.2 g of methyl 2,3-dihydro-5-methyl-3-methylene-1-benzothiophene-6-carboxylate-1,1-dioxide [prepared by cyclization of methyl 4-acetyl-2-methyl-5-methylsulfonylbenzoate and subsequent dehydration] and the mixture is boiled for 1 hour, then stirred at room temperature for a further hour and worked up in the customary manner. N-Diaminomethylene-2,3-dihydro-3-methoxy-3,5-dimethyl-1-benzothiophene-6-carboxamide-1,1-dioxide is obtained. Treatment with methanesulfonic acid in methanol gives the corresponding methanesulfonate, m.p. 214-215°.

reactant | guanidine | NC(=N)N | CH5N3
reactant | sodium | 547 mg | [Na] | Na
reactant | guanidine hydrochloride | 2.5 g | Cl.NC(=N)N
reactant | methyl 2,3-dihydro-5-methyl-3-methylene-1-benzothiophene-6-carboxylate-1,1-dioxide | 1.2 g | CC=1C(=CC2=C(C(CS2(=O)=O)=C)C1)C(=O)OC | C12H12O4S
reactant | methanol | 12 ml | CO | CH4O
product | N-Diaminomethylene-2,3-dihydro-3-methoxy-3,5-dimethyl-1-benzothiophene-6-carboxamide-1,1-dioxide | NC(=NC(=O)C1=CC2=C(C(CS2(=O)=O)(C)OC)C=C1C)N | C13H17N3O4S
